US04659706
Following the procedure of Examples 1 and 8, 6-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine is converted via 3-acetyl-6-methoxy-7-methylsulfonyl-9-bromo-2,3,4,5-tetrahydro-1H-3-benzazepine to 6-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride which is treated with hydrobromic acid to give 6-hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide.

reactant | 6-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=CC=CC=2CCNCCC21 | C11H15NO
reactant | 3-acetyl-6-methoxy-7-methylsulfonyl-9-bromo-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C(=CC(=C2OC)S(=O)(=O)C)Br | C14H18BrNO4S
reactant | 6-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.COC1=C(C=CC=2CCNCCC21)S(=O)(=O)C
reactant | hydrobromic acid | Br | BrH
product | 6-hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC1=C(C=CC=2CCNCCC21)S(=O)(=O)C | InChI=1S/C11H15NO3S.BrH/c1-16(14,15)10-3-2-8-4-6-12-7-5-9(8)11(10)13;/h2-3,12-13H,4-7H2,1H3;1H
